************************************************************************
* auCdl Netlist:
* 
* Library Name:  TIGFET10nm
* Top Cell Name: G5_XOR3_N1
* View Name:     schematic
* Netlisted on:  Feb 18 11:21:17 2022
************************************************************************

.INCLUDE  ~/TIGFET-10nm-PDK/calibre/tig.sp
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: TIGFET10nm
* Cell Name:    G5_XOR3_N1
* View Name:    schematic
************************************************************************

.SUBCKT G5_XOR3_N1 A B C Vdd Vss Z
*.PININFO A:I B:I C:I Z:O Vdd:B Vss:B
XI1 Z A BI A CI / TIGFET_PCELL_SP15CP15_N1
XI4 Z AI B AI CI / TIGFET_PCELL_SP15CP15_N1
XI8 AI Vss A Vss Vdd / TIGFET_PCELL_SP15CP15_N1
XI6 BI Vss B Vss Vdd / TIGFET_PCELL_SP15CP15_N1
XI7 AI Vdd A Vdd Vss / TIGFET_PCELL_SP15CP15_N1
XI5 BI Vdd B Vdd Vss / TIGFET_PCELL_SP15CP15_N1
XI3 Z A B A C / TIGFET_PCELL_SP15CP15_N1
XI2 Z AI BI AI C / TIGFET_PCELL_SP15CP15_N1
XI10 CI Vss C Vss Vdd / TIGFET_PCELL_SP15CP15_N1
XI9 CI Vdd C Vdd Vss / TIGFET_PCELL_SP15CP15_N1
.ENDS

